US05527816
To a flask was added 20.0 g. of 4-(N-methylamino)phenol, 20 ml. of acetic anhydride, 60 ml. of acetic acid and 10 g. of sodium acetate. The solution was warmed on a steam bath for one hour and water added to clarify the solution. The mixture was allowed to cool, more water added and the resulting solution poured onto solid sodium bicarbonate in an open vessel. The aqueous material was extracted five times with 200 ml. portions of ethyl ether, the ether extracts combined, washed with brine, then dried and concentrated to obtain the crude 4-(N-acetyl-N-methylamino)phenyl acetate which was recrystallized from a mixture of ethyl acetate, hexane and ethanol.

reactant | 4-(N-methylamino)phenol | CNC1=CC=C(C=C1)O | C7H9NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(N-acetyl-N-methylamino)phenyl acetate | C(C)(=O)OC1=CC=C(C=C1)N(C)C(C)=O | C11H13NO3
